US07943609B2
(11S)-11-Methyl-3-(3-morpholin-4-yl-3-oxopropyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
A 250-mL, glass Parr bottle was charged with palladium on carbon (10%, 0.05 g) and 2 mL of ethanol. A solution of (11S)-11-methyl-3-[(1E)-3-morpholin-4-yl-3-oxoprop-1-enyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (0.25 g, 0.63 mmol) dissolved in 125 mL of a 1:1 mixture of methanol/ethanol was then added. The reaction mixture was placed on Parr apparatus and shaken under H2 at 50 PSI (3.4×105 Pa) overnight at ambient temperature. The reaction mixture was treated with additional palladium on carbon (10%, 0.05 g) and shaken under H2 at 50 PSI (3.4×105 Pa) for 3 days. The reaction mixture was then filtered through a pad of CELITE filter agent. The pad rinsed with methanol and the combined filtrates were concentrated under reduced pressure to give a white solid. Chromatography (SiO2, 0-15% CMA/CHCl3) gave a white solid that was crystallized from acetonitrile to give 111 mg of the title compound as white crystals, mp 245-247° C.

reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | (11S)-11-methyl-3-[(1E)-3-morpholin-4-yl-3-oxoprop-1-enyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 0.63 mmol, 0.25 g | C[C@H]1COCC=2N1C1=C(C(=NC3=CC(=CC=C13)\C=C\C(=O)N1CCOCC1)N)N2 | C21H23N5O3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | methanol ethanol | CO.C(C)O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | (11S)-11-Methyl-3-(3-morpholin-4-yl-3-oxopropyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 111 mg | C[C@H]1COCC=2N1C1=C(C(=NC3=CC(=CC=C13)CCC(=O)N1CCOCC1)N)N2 | C21H25N5O3
